US04493833
Benzhydryl 7-(2-phenylacetamido)-3-[2-(4-methoxyphenoxy)acetoxymethyl]-3-cephem-4-carboxylate (6.0 g.), phosphorus pentachloride (5.65 g.), pyridine (2.2 g.) and methanol (7.3 ml.) were reacted according to a similar manner to that of Preparation 30 (4) to give benzhydryl 7-amino-3-[2-(4-methoxyphenoxy)acetoxymethyl]-3-cephem-4-carboxylate (4.6 g.).

reactant | Benzhydryl 7-(2-phenylacetamido)-3-[2-(4-methoxyphenoxy)acetoxymethyl]-3-cephem-4-carboxylate | 6.0 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)COC(COC2=CC=C(C=C2)OC)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C38H34N2O8S
reactant | phosphorus pentachloride | 5.65 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | pyridine | 2.2 g | N1=CC=CC=C1 | C5H5N
solvent | methanol | 7.3 ml | CO | CH4O
product | benzhydryl 7-amino-3-[2-(4-methoxyphenoxy)acetoxymethyl]-3-cephem-4-carboxylate | 4.6 g | NC1[C@@H]2N(C(=C(CS2)COC(COC2=CC=C(C=C2)OC)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H28N2O7S
